US04178449
3-Cyano-7-(α,α,α-trifluoro-m-tolyl)pyrazolo-[1,5-a]pyrimidine-2-carbonitrile
A mixture of 4.86 g. of 3-dimethylamino-3'-(trifluoromethyl)acrylophenone, 50 ml. of glacial acetic acid and 2.66 g. of 3-aminopyrazole-4,5-dicarbonitrile is refluxed for 10 hours and the solvent removed under reduced pressure. The residue is treated with trifluoroacetic anhydride to give the product of the example. cl EXAMPLE 44

reactant | 3-dimethylamino-3'-(trifluoromethyl)acrylophenone | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
reactant | 3-aminopyrazole-4,5-dicarbonitrile | NC1=NNC(=C1C#N)C#N | C5H3N5
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Cyano-7-(α,α,α-trifluoro-m-tolyl)pyrazolo-[1,5-a]pyrimidine-2-carbonitrile | C(#N)C=1C(=NN2C1N=CC=C2C=2C=C(C=CC2)C(F)(F)F)C#N | C15H6F3N5
